US09290485B2
d) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamide
To a solution of tert-butyl (4,6-dimethyl-5-((1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate (131.9 mg, 0.263 mmol) in DCM (1.2 ml) was added TFA (0.405 ml, 5.26 mmol). Reaction mixture was stirred overnight at 23° C. Reaction mixture was evaporated to afford the crude material, which was purified by preparative HPLC (Sunfire C18-ODB, 5 μm, 100×30 mm, elution with A=water+0.1% TFA and B=ACN+0.1% TFA, gradient from 5% to 100% B in 25 min, flow: 40 mL/min). Fractions were combined and acetonitrile was evaporated. Residual aqueous layer was frozen and lyophilized to afford the product as a TFA salt, which was dissolved in acetonitrile/methanol and eluted through a PL-HCO3 MP-resin column (Stratosphere SPE). The eluted solution was evaporated, and the residue was triturated in Et2O and filtered to afford the title compound as a free base. 1H-NMR (DMSO-d6, 400 MHz) δ 8.70 (s, 1H), 8.62 (broad s, 1H), 8.24 (d, 1H), 7.91 (d, 1H), 7.86 (s, 1H), 7.66 (d, 1H), 7.43 (d, 1H), 6.37 (broad s, 1H), 5.82 (s, 2H), 4.33 (d, 2H), 2.64 (s, 3H), 2.42 (s, 3H), 2.29 (s, 3H); HPLC (Method G) Rt=0.932 min; MS (Method F) [M+H]+=402.5.

reactant | tert-butyl (4,6-dimethyl-5-((1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)pyridin-2-yl)carbamate | 0.263 mmol, 131.9 mg | CC1=CC(=NC(=C1CNC(=O)C=1N=NN(C1)CC=1C=C2C=CC(=NC2=CC1)C)C)NC(OC(C)(C)C)=O | C27H31N7O3
reactant | TFA | 5.26 mmol, 0.405 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.2 ml | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((2-methylquinolin-6-yl)methyl)-1H-1,2,3-triazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1N=NN(C1)CC=1C=C2C=CC(=NC2=CC1)C)C | C22H23N7O
